US06046220
4-[3- (3,5-Di-tert-butyl-4-oxo-2,5-cyclohexadien-1-ylidene)-1-propynyl]benzoic acid.
2.2 g (4.7 mmol) of 4-{3-Hydroxy-3-[3,5-di-tert-butyl-4-(2-trimethylsilylethoxymethoxy)phenyl]-1-propynyl}benzoic acid and 75 ml of dichloromethane are introduced into a three-necked flask. 360 μl (4.7 mmol) of trifluoroacetic acid are added at -78° C. and the mixture is allowed to return to room temperature. The reaction medium is poured into water and extracted with ethyl ether, and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and evaporated. The residue obtained is triturated from heptane, filtered and then dried. 1.6 g (90%) of 4-[3-(3,5-di-tert-butyl-4-oxo-2,5cyclohexadien-1-ylidene)-1-propynyl]benzoic acid are collected, with a melting point of 216-8° C.

reactant | 4-{3-Hydroxy-3-[3,5-di-tert-butyl-4-(2-trimethylsilylethoxymethoxy)phenyl]-1-propynyl}benzoic acid | 4.7 mmol, 2.2 g | OC(C#CC1=CC=C(C(=O)O)C=C1)C1=CC(=C(C(=C1)C(C)(C)C)OCOCC[Si](C)(C)C)C(C)(C)C | C30H42O5Si
reactant | dichloromethane | 75 ml | ClCCl | CH2Cl2
reactant | trifluoroacetic acid | 4.7 mmol, 360 μl | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
product | 4-[3- (3,5-Di-tert-butyl-4-oxo-2,5-cyclohexadien-1-ylidene)-1-propynyl]benzoic acid | C(C)(C)(C)C1=CC(C=C(C1=O)C(C)(C)C)=CC#CC1=CC=C(C(=O)O)C=C1 | C24H26O3
